US20010003782A1
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid methyl ester (3.6 g) is dissolved in a mixture of 150 ml of THF, 120 ml of ethanol and 18 ml of 1M sodium hydroxide. The mixture is stirred for 20 hours at room temperature and 2 hours at 50° C. After aqueous work-up and crystallisation from ethanol/water, 2.48 g of 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid is isolated.

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid methyl ester | 3.6 g | COC(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O | C33H56O3Si
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1M, 18 ml | [OH-].[Na+]
product | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid | 2.48 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H54O3Si
